US08236835B2
Synthesis of (S)-N-benzyl-2-(4-hydroxy-2-oxopyrrolidin-1-yl)-4-methylthiazole-5-carboxamide
A mixture of (4S)-4-(2-oxotetrahydro-2H-pyran-4-yloxy)pyrrolidin-2-one (0.036 g, 0.19 mmol), N-benzyl-2-bromo-4-methylthiazole-5-carboxamide (0.050 g, 0.16 mmol), cesium carbonate (0.079 g, 0.24 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.003 g, 0.003 mmol) and xantphos (0.004 g, 0.006 mmol) in anhydrous toluene (3 mL) was subjected to microwave irradiation at 80° C. for 20 min. The reaction mixture was diluted with ethyl acetate (10 mL) and washed with water (4 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in ethanol and a catalytic amount of pyridinium p-toluenesulfonate was added to the solution. The reaction mixture was heated at 50° C. for 6 hours and concentrated in vacuo. The residue was dissolved in dichloromethane (15 mL) and washed with water (5 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The obtained white solid was washed with diethyl ether (25 mL) and dried in air to afford the title compound (0.028 g, 53%): mp 203-204° C. (diethyl ether); 1H NMR (300 MHz, DMSO-d6) δ 8.60 (t, J=6.0 Hz, 1H), 7.33-7.17 (m, 5H), 5.46 (d, J=3.8 Hz, 1H), 4.47-4.41 (m, 1H), 4.35 (d, J=6.0 Hz, 2H), 4.12-4.04 (m, 1H), 3.93-3.85 (m, 1H), 3.00-2.90 (m, 1H), 2.48 (s, 3H), 2.42-2.33 (m, 1H); 13C NMR (75 MHz, DMSO-d6) δ 173.3, 162.1, 155.9, 140.0, 128.7, 127.7, 127.2, 119.4, 63.6, 57.0, 43.1, 41.7, 17.5; MS (ES+) m/z 332.2 (M+1).

reactant | (4S)-4-(2-oxotetrahydro-2H-pyran-4-yloxy)pyrrolidin-2-one | 0.19 mmol, 0.036 g | O=C1OCCC(C1)O[C@H]1CC(NC1)=O | C9H13NO4
reactant | N-benzyl-2-bromo-4-methylthiazole-5-carboxamide | 0.16 mmol, 0.050 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)Br)C | C12H11BrN2OS
reactant | cesium carbonate | 0.24 mmol, 0.079 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | 0.003 mmol, 0.003 g | ClCCl | CH2Cl2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | xantphos | 0.006 mmol, 0.004 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | (S)-N-benzyl-2-(4-hydroxy-2-oxopyrrolidin-1-yl)-4-methylthiazole-5-carboxamide | 0.028 g, 53% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C[C@@H](C1)O)=O)C | C16H17N3O3S
